US05246927
A solution of 3.45 g of 2-tert-butyl-6-isothiocyanato-5-(4-methylpiperidin-1-yl)benzothiazole, described in Example 1, and 8.6 g of anhydrous piperazine in 30 ml of chloroform is stirred for 3 hours, washed with water, dried over anhydrous sodium sulphate and evaporated to get a sticky residue which is triturated with isopropanol and filtered to obtain 3 g of 2-tert-butyl-5-(4-methyl-piperidin-1-yl)-6-[(piperazin-1-yl)thiocarbonylamino]benzothiazole, melting at 278°-281°.

reactant | 2-tert-butyl-6-isothiocyanato-5-(4-methylpiperidin-1-yl)benzothiazole | 3.45 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)N=C=S)N2CCC(CC2)C | C18H23N3S2
reactant | piperazine | 8.6 g | N1CCNCC1 | C4H10N2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-tert-butyl-5-(4-methyl-piperidin-1-yl)-6-[(piperazin-1-yl)thiocarbonylamino]benzothiazole | 3 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)NC(=S)N2CCNCC2)N2CCC(CC2)C | C22H33N5S2
